US08440701B2
(S)-1-[3-(3-Chloro-phenylamino)-5-(2-ethylamino-pyridin-4-yl)-[1,2,4]triazol-1-yl]-butan-2-ol (E2)
Intermediate 1-[3-(3-chloro-phenylamino)-5-(2-chloro-pyridin-4-yl)-[1,2,4]triazol-1-yl]-butan-2-ol (prepared according to description 4) (1.15 g; 3.04 mmol) was dissolved in CH3OH (20 ml) and then ethylamine (3 g) was added. The reaction mixture was stirred for 16 hours at 160° C. under pressure (until the reaction had proceeded to completion). The solvent was then evaporated in vacuo. The residue was purified by reversed-phase high-performance liquid chromatography (Shandon Hyperprep® C18 BDS (Base Deactivated Silica) 8 μm, 250 g, I.D. 5 cm). A gradient with 2 mobile phases was applied (phase A: a 0.25% NH4HCO3 solution in water; phase B: CH3CN). The desired fractions were collected, worked-up and finally the residue was crystallized from diisopropyl ether. Yield: 0.1595 g of compound E2 (S-enantiomer).

reactant | 1-[3-(3-chloro-phenylamino)-5-(2-chloro-pyridin-4-yl)-[1,2,4]triazol-1-yl]-butan-2-ol | 3.04 mmol, 1.15 g | ClC=1C=C(C=CC1)NC1=NN(C(=N1)C1=CC(=NC=C1)Cl)CC(CC)O | C17H17Cl2N5O
reactant | ethylamine | 3 g | C(C)N | C2H7N
solvent | CH3OH | 20 ml | CO | CH4O
product | (S)-1-[3-(3-Chloro-phenylamino)-5-(2-ethylamino-pyridin-4-yl)-[1,2,4]triazol-1-yl]-butan-2-ol | ClC=1C=C(C=CC1)NC1=NN(C(=N1)C1=CC(=NC=C1)NCC)C[C@H](CC)O | C19H23ClN6O
